US04147872
1-Benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidone
To a cooled solution of 24.8 g. (50 mmols.) of 1-benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol, 100 ml. of acetone, 6.0 g. (60 mmols.) of chromium trioxide, 15 ml. of water and 20 ml. of acetic acid is added dropwise 20 ml. of concentrated sulfuric acid at such a rate as to maintain the temperature at 5° C. The reaction mixture is stirred 5 hours longer (t<18° C.) and then neutralized with concentrated ammonium hydroxide. The reaction mixture is extracted with 500 ml. of ether, the ether extract washed once with saturated sodium chloride, dried over magnesium sulfate and evaporated. Purification is accomplished via rapid column chromatography on 100 g. of silica gel eluted with ether to yield the title compound.

reactant | 1-benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol | 50 mmols | C(C1=CC=CC=C1)N1CC(C(CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C34H45NO2
reactant | acetone | CC(=O)C | C3H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | chromium trioxide | 60 mmols | [O-2].[O-2].[O-2].[Cr+6]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-Benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidone | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C34H43NO2
